US05817671
5-(N-[3,4-difluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.007 mL (0.055 mMol) 3,4-difluorobenzoyl chloride, 0.014 gm (80%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3,4-difluorobenzoyl chloride | 0.055 mMol, 0.007 mL | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
product | 5-(N-[3,4-difluorobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.014 gm, 80% | FC=1C=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC1F | C20H20F2N4O
